US07452906B2
Step 1. 4,5-Dibromo-furan-2-carbonyl chloride
Oxalyl chloride (10.4 ml, 0.12 mol) was added to a suspension of 4,5-dibromo-2-furoic acid (27 g, 0.1 mol) in dichloromethane (300 ml) containing dimethylformamide (0.1 ml). The mixture was stirred at room temperature for 4 h and then concentrated in vacuo. The residue was re-dissolved in dichloromethane and concentrated in vacuo; this was repeated to give the title compound which was used directly in the following step.

reactant | Oxalyl chloride | 0.12 mol, 10.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4,5-dibromo-2-furoic acid | 0.1 mol, 27 g | BrC=1C=C(OC1Br)C(=O)O | C5H2Br2O3
reactant | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4,5-Dibromo-furan-2-carbonyl chloride | BrC=1C=C(OC1Br)C(=O)Cl | C5HBr2ClO2
